Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
weakness, fatigue, dizziness
 
Major Surgical or Invasive Procedure:
PPM generator exchange ___

 
History of Present Illness:
___ woman with hx complete heart block (intra-his block) s/p 
___, HTN, HLD, TIA and hypothyroidism p/w several days 
of weakness, fatigue and dizziness. 

Patient reports she was in her USOH until about 2 days ago when 
she developed a sense of generalized weakness, muscle aches, 
palpitations, and felt very dizzy with sensation that she was 
about to pass out. Denies any episodes of loss of consciousness. 
Additionally she notes several days of nonproductive cough, 
nausea, and shortness of breath worsened with exertion. Denies 
any fever/chills, chest pain, abdominal pain, diarrhea, urinary 
symptoms or numbness/weakness/tingling.  Her daughter reports 
she was due to have her PPM battery replaced at the end of the 
month. On speaking to her physician she was recommended to 
present to the ED for further evaluation.

Pt initially had her PPM placed during an admission in ___ 
after being noted to be in complete heart block at her PCP 
___. Workup for her CHB at that time included ESR, RPR, ACE 
level and Lyme titers which were all WNL. Since then she had her 
device replaced on ___ after a device recall. She has 
followed with Dr. ___ for regular device 
interrogations.

Last PPM evaluation on ___ showed: 

Battery voltage/time to ERI: 2.61V/1 months/ Imp: 7,734 ohms
Presenting rhythm: AS/VP 
Underlying rhythm: CHB no ventricular escape at VVI 40 bpm 
Mode, base and upper track rate: DDD 50-140 bpm 
Plan at that time was to recheck battery life in 6 weeks with
planned replacement at the end of ___. 

In the ED,  
- Initial vitals were: T 97.8, HR 64, BP 157/81, RR 15, 98% on 
RA 
- Exam notable for: LLE mild swelling > RLE, otherwise WNL 
- Labs notable for: Trop <0.01, proBNP 924, bland UA, WBC 3.8, 
negative flu, normal BMP  
- Studies notable for: CXR with no acute cardiopulmonary 
process, EKG with V-paced rhythm 65 BPM, complete heart block 
- Patient was given:  500cc NS 

PPM interrogation in the ED revealed: 
Battery: ERI, ___ 10:22 ___ switched to VVi 65 bpm
Battery voltage: 2.58V/ERI/ Imp: 9131 ohms
Presenting rhythm: VVI 65 bpm 
Underlying rhythm: not tested given h/o CHB w/o ventricular 
escape

She was admitted to the CCU for close monitoring prior to an 
expedited generator change. 

On arrival to the CCU, patient reported feeling well lying in 
bed asides from some mild lightheadedness, a headache, and a dry 
cough. She denied any chest pain, shortness of breath, fevers, 
abdominal pain or dysuria. 

 
Past Medical History:
Cardiac History:  
-CHB (intra-His block) s/p PPM: 
Date of Implant: initially implanted ___, last generator change 
___
Date of Generator Change: ___
Indication: CHB
Device brand/name: ___ 
Model Number: SEDR01  
-HTN
-HLD 

Other PMH:  
-TIA 
-Hypothyroidism
-Major Depression 

 
Social History:
___
Family History:
no known family history of cardiac disease 

 
Physical Exam:
ADMISSION PHYSICAL:
VS: afebrile, BP 138/74, HR 65 (paced), RR 13, O2 96% RA 
GENERAL: Well developed, well nourished lying in bed 
comfortably. Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI.
NECK: Supple. JVP 6cm 
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or 
gallops. pacer pads in place  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No adventitious breath 
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No palpable 
hepatomegaly or splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.
NEURO: A&Ox3, moving all 4 extremities with purpose 

DISCHARGE PHYSICAL:
VS: afebrile, 109/70, 66, 18, 96% on RA
GENERAL: Well developed, NAD
HEENT: Normocephalic, atraumatic.
NECK: Supple.
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or 
gallops. pacer pads in place  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No adventitious breath 
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No palpable 
hepatomegaly or splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant lesions or rashes. PPM site intact, dressed
PULSES: Distal pulses palpable and symmetric.
NEURO: Alert, appropriately interactive
 
Pertinent Results:
ADMISSION LABS:
___ 10:40PM BLOOD WBC-3.8* RBC-4.11 Hgb-13.2 Hct-41.2 
MCV-100* MCH-32.1* MCHC-32.0 RDW-13.0 RDWSD-48.1* Plt ___
___ 10:40PM BLOOD Neuts-37.6 ___ Monos-16.7* 
Eos-5.6 Baso-0.8 Im ___ AbsNeut-1.42* AbsLymp-1.47 
AbsMono-0.63 AbsEos-0.21 AbsBaso-0.03
___ 10:40PM BLOOD Plt ___
___ 10:40PM BLOOD Glucose-104* UreaN-15 Creat-0.8 Na-143 
K-4.1 Cl-107 HCO3-25 AnGap-11
___:40PM BLOOD proBNP-924*
___ 10:40PM BLOOD cTropnT-<0.01

DISCHARGE LABS:
___ 06:18AM BLOOD WBC-3.6* RBC-3.97 Hgb-12.7 Hct-39.7 
MCV-100* MCH-32.0 MCHC-32.0 RDW-13.0 RDWSD-48.2* Plt ___
___ 06:18AM BLOOD Glucose-101* UreaN-11 Creat-0.7 Na-146 
K-3.9 Cl-112* HCO3-22 AnGap-12

OTHER IMPORTANT LABS: N/A

IMAGING/STUDIES: N/A

 
Brief Hospital Course:
Ms ___ is a ___ woman with hx complete heart block 
(intra-his block) s/p PPM (___), HTN, HLD, TIA and 
hypothyroidism p/w several days of weakness, fatigue and 
dizziness. In the ED, PPM interrogation revealed:
Battery: ERI, ___ 10:22 ___ switched to VVi 65 bpm
Battery voltage: 2.58V/ERI/ Imp: 9131 ohms
Presenting rhythm: VVI 65 bpm 
Underlying rhythm: not tested given h/o CHB w/o ventricular
escape

ACUTE ISSUES:
============
#Complete heart block
#Pacemaker battery depletion
She was admitted to the CCU for close monitoring prior to an 
expedited generator change. She had no acute events while 
awaiting generator exchange. EP service complete generator 
exchange with complication. She was then discharged that day.

CHRONIC/STABLE ISSUES:
======================
#HTN: continued on home HCTZ and lisinopril 

#HLD: continued on home pravastatin

#hx TIA: home ASA changed from 325mg to 81mg PO daily

#Hypothyroidism continued on levothyroxine 

#MDD: continued on home citalopram 

TRANSITIONAL ISSUES:
===================
-ASA changed from 325mg to 81mg PO daily
-Will need to complete 5 day course of post-operative abx 
(cephalexin 500mg PO q12H; ___
-patient needs to follow-up with EP (appointment scheduled)

#CODE: FULL CODE confirmed
#CONTACT/HCP: ___ (daughter/HCP) - ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Gabapentin 300 mg PO BID 
3. Pravastatin 40 mg PO QPM 
4. Aspirin 325 mg PO DAILY 
5. Cetirizine 10 mg PO DAILY:PRN allergies 
6. Citalopram 20 mg PO DAILY 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q12H Duration: 5 Days 
Please complete 5 day course; day 1 = ___, day 5 = ___ 
RX *cephalexin 500 mg 1 capsule(s) by mouth twice a day Disp 
#*10 Capsule Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Cetirizine 10 mg PO DAILY:PRN allergies  
4.  Citalopram 20 mg PO DAILY  
5.  Gabapentin 300 mg PO BID  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Levothyroxine Sodium 75 mcg PO DAILY  
8.  Lisinopril 20 mg PO DAILY  
9.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS/ES:
=====================
#Complete heart block

SECONDARY DIAGNOSIS/ES:
======================
#Hypertension
#Hyperlipidemia 
#History of prior transient ischemic attack 
#Hypothyroidism 
#Major depressive disorder, chronic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY WERE YOU ADMITTED TO THE HOSPITAL?
-Your pacemaker was not functioning correctly and you were 
lightheaded

WHAT WAS DONE FOR YOU IN THE HOSPITAL?
-You had a procedure to change the battery to your pacemaker
-You were monitored in the cardiac ICU

WHAT YOU SHOULD DO AFTER GOING HOME?
-Please follow-up with your outpatient doctors as ___

Thank you for allowing us to be a part of your care,
Your ___ Team
 
Followup Instructions:
___